* Amplificador simple tension con polo en la entrada *
* tran <Tstep> <Tstop> [Tstart [dTmax]] [modifiers]
*.tran 0 2m 0 10u

*V_V1         n1 n2 DC 0 AC 1 SIN off amp f 0 0 0
V_Vs         s 0 DC 1m AC 1
+SIN 1m 1 1k 0 0 0
R_Rs         s	in	1k  
C_Ci         in	0	10n  
R_Rin		 in	0	1meg
E_E1         out 0 in 0 10
R_RL         0	out  1k
